US07018988B2
(2S,4EZ)-N-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-1-(4-phenoxybenzoyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 4-phenoxybenzoyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 43% purity by LC/MS. MS(ESI+): m/z=547.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 4-phenoxybenzoyl chloride | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-N-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-1-(4-phenoxybenzoyl)-2-pyrrolidinecarboxamide | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(=O)[C@H]1N(CC(C1)=NOC)C(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C33H30N4O4
